US07960409B2
Step 1: 1,1,1-Trifluoro-4-(triisopropylsilyl)but-3-yn-2-one
To a solution of (triisopropylsilyl)acetylene (6.50 mL, 29.0 mmol) in THF (80 mL) at −78° C. was added n-BuLi (2.5 M in hexane, 12.2 mL, 30.4 mmol) while maintaining the internal temperature below −70° C. After 30 min., ethyl trifluoroacetate (4.14 mL, 34.8 mmol) was added dropwise, keeping the internal temperature below −73° C. After 15 min. at −78° C., the mixture was allowed to reach 0° C. After 2 h, a saturated solution of NH4Cl was added. The aqueous layer was extracted with EtOAc (3×), and the combined organic layers were washed with brine, dried (Na2SO4) and concentrated affording the title compound. 1H NMR (400 MHz, acetone-d6): 1.27 (m, 3H), 1.16 (d, 18H).

reactant | (triisopropylsilyl)acetylene | 29.0 mmol, 6.50 mL | C(C)(C)[Si](C(C)C)(C(C)C)C#C | C11H22Si
reactant | n-BuLi | 30.4 mmol, 2.5 M, 12.2 mL | [Li]CCCC
reactant | ethyl trifluoroacetate | 34.8 mmol, 4.14 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 1,1,1-Trifluoro-4-(triisopropylsilyl)but-3-yn-2-one | FC(C(C#C[Si](C(C)C)(C(C)C)C(C)C)=O)(F)F | C13H21F3OSi
